### PR TITLE
feat: define T?

### LINKED ISSUE #583: The adelic subgroup U_1(S) of (D tensor A_F^infty)^* is compact and open
I have not yet written down a clear path to this and may come back to this issue later on.

The proof is: the rigidification M_2(A_F^f)=D tensor A_F^f is a homeomorphism because it's an isomorphism of finite A_F^-modules with the module topology. So it suffices to prove that the subgroup U_1(S) of GL_2(A_F^f) is compact and open. If we know that the local factors are compact and open this is enough (for openness, use that the local factors are the full subgroup GL_2(O_v) for all but finitely many v). This reduces the claim to the following:

1) GL_2(O_v) is open and compact in GL_2(F_v) if F is a number field and v is a finite place
2) the "local U_1(v)" (i.e. matrices in GL_2(O_v) which are congruent to (a *;0 a) mod v) are open and compact.

Really we should be proving these results for all nonarchimedean local fields, however nonarchimedean local fields are not yet in mathlib.
I want to deduce these results from facts like "units of an open submonoid of a topological monoid are open" and "units of a compact submonoid of a Hausdorff topological monoid are compact" but these are other (much easier) issues.

People are welcome to claim this issue but right now we will need to build a fair amount of infrastructure and perhaps break the problem down into smaller issues.

### PR DESCRIPTION
**Pull request by erdOne**
Defines `HeckeAlgebra D 𝒮` for `𝒮 : U₁Data F R p`, a structure consisting of a set of bad primes `S` of `F` with order `p` characters `k(v)ˣ →* R`, and a set of taylor wiles primes `Q`.
Provides the instance that it is commutative and finite over `R`.

The only new sorry (`knownIn1980s`) is on `L404` of `FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean`,
saying that `U 𝔸ˣ ∩ g Dˣ g⁻¹ / Fˣ` is finite.

Probably closes #583 #584 #585 and might make #564 worse.

### CODE REVIEW

File: FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1232 @@
...
+  (i.e. `φ(zg)=φ(g)` for all `z ∈ (𝔸_F^∞)ˣ`).
+
+* `WeightTwoAutomorphicFormOfLevel U R` -- weight 2 R-valued automorphic forms of
+  level `U`, i.e. `U`-invariant elements of `WeightTwoAutomorphicForm F D R`.
+  It is a nontrivial theorem that if `U` is open and `R` is Noetherian then this space
+  is a finitely-generated `R`-module; this follows from Fujisaki's lemma.
+
+-/
+
+attribute [-simp] RingHom.toMonoidHom_eq_coe
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean:64]: Note to self: we should get rid of the coercion from MonoidHomClass to MonoidHom. We need to keep MonoidHomClass.toMonoidHom but not make it a coercion. 

So e.g. RingHom.ker should take a RingHom and we can delete a bunch of RingHomClass stuff.

See [#mathlib4 > Mathlib's morphism hierarchy @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.27s.20morphism.20hierarchy/near/554383157)

File: FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1232 @@
...
+    conv_rhs => rw [← Subgroup.relIndex_map_map_of_injective (f :=
+      (MulDistribMulAction.toMulEquiv _ (ConjAct.toConjAct u)).toMonoidHom) _ _
+      (MulDistribMulAction.toMulEquiv _ (ConjAct.toConjAct u)).injective,
+      Subgroup.map_inf _ _ _
+        (by exact (MulDistribMulAction.toMulEquiv _ (ConjAct.toConjAct u)).injective)]
+    congr 2
+    · exact (Subgroup.conjAct_pointwise_smul_eq_self
+        ((Subgroup.normalizer_eq_top_iff.mpr inferInstance).ge trivial)).symm
+    · exact (Subgroup.conjAct_pointwise_smul_eq_self (Subgroup.le_normalizer hu)).symm
+    · change _ = toConjAct u • ((toConjAct u)⁻¹ • (toConjAct g₁)⁻¹ • 𝓓ˣ)
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean:527]: Is there a missing simp lemma?

File: FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1232 @@
...
+      simp
+      rfl
+
+open scoped Pointwise
+
+variable (D) in
+/-- A level struct is sufficiently small if the associated character has finite order coprime
+to `[Δ_g : Fˣ]` for all `g`. -/
+class IsSufficientlySmall (ℒ : LevelStruct F R) where
+  isOfFinOrder_χ : IsOfFinOrder ℒ.χ
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean]: Might be always true?

File: FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1232 @@
...
+/-- The inclusion of the local open subgroup into the global one. -/
+noncomputable
+def incl : ℒ.US v →* ℒ.toStruct.U :=
+  ((GL2.finiteAdeleIncl v).comp (Subgroup.subtype _)).codRestrict _ <| by
+  rintro ⟨x, hx⟩ w
+  obtain rfl | h := eq_or_ne w v
+  · simpa
+  · simp [h]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/Basic.lean:1207]: I wonder what happened here?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 5]
```diff
@@ -88,267 +94,1009 @@ end finiteness
 open NumberField IsQuaternionAlgebra.NumberField IsDedekindDomain
 
 -- let F be a totally real number field
-variable (F : Type*) [Field F] [NumberField F] [IsTotallyReal F]
+variable (F : Type*) [Field F] [NumberField F] --[IsTotallyReal F]
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean]: Maybe delete the comment?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 6]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+    refine congr(a • $((f _).2 b)).trans ?_
+    dsimp [f]
+    erw [AbstractHeckeOperator.heckeOperator_apply']
+    rw [Finset.smul_sum, Finset.smul_sum]
+    congr with x y
+    have H : y * a * GL2.finiteAdeleIncl v x.out = y * GL2.finiteAdeleIncl v x.out * a := by
+      simp only [mul_assoc]; rw [GL2.mul_comm_of_toAdicCompletion_eq_one _ _ _ ha]
+    exact congr(c.1 $H).trans congr($(c.2 a) (y * GL2.finiteAdeleIncl v x.out))
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean:159]: Again I wonderwhy

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 7]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+  __ := ℒ.heckeOperator D M v hv g
+  map_smul' m x := by
+    let f :=
+      AbstractHeckeOperator.heckeOperator g (ℒ.US v) (ℒ.US v)
+      (R := S) (A := WeightTwoAutomorphicForm F D M)
+      (QuotientGroup.mk_image_finite_of_compact_of_open (ℒ.isCompact_US _) (ℒ.isOpen_US _))
+    ext1
+    change (f _).1 = (m • f _).1
+    convert congr($(f.map_smul _ _).1)
+    rfl
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean]: Try `exact! congr($(f.map_smul _ _).1)`

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 8]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+    simpa
+  ext a
+  obtain ⟨s, hs⟩ := QuotientGroup.exists_bijOn_mk_image_mul_singleton _
+    (ℒ.isOpen_US v) (ℒ.isCompact_US v) g
+  dsimp [LevelStruct.formTensor]
+  simp only [AlgebraTensorModule.mk_apply, LevelStruct.formMapₗ_apply,
+    LevelStruct.formMap_apply_coe, mapₗ_apply_toFun, LinearMap.coe_mk, AddHom.coe_mk,
+    Function.comp_apply]
+  rw [ℒ.heckeOperator_eq_finsetSum _ _ _ s hs, ℒ.heckeOperator_eq_finsetSum _ _ _ s hs]
+  simp [tmul_sum, adicCompletion_smul_def]
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean]: Can you do "simp [everything you use here]"?

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 9]
```diff
@@ -35,7 +42,16 @@ open scoped NumberField TensorProduct
 
 namespace IsQuaternionAlgebra.NumberField
 
-open scoped TensorProduct.RightActions in
+local notation "𝔸 " F:max => FiniteAdeleRing (𝓞 F) F
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]: This is hard to understand becasue A looks like full adeles

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 10]
```diff
@@ -44,55 +60,162 @@ for all finite places `v` together with a guarantee that the isomorphism works
 on the integral level at all but finitely many places. Such a rigidification exists
 if and only if F is unramified at all finite places.
 -/
-abbrev Rigidification :=
-    (D ⊗[F] (FiniteAdeleRing (𝓞 F) F) ≃ₐ[FiniteAdeleRing (𝓞 F) F]
-    Matrix (Fin 2) (Fin 2) (FiniteAdeleRing (𝓞 F) F))
+class WithRigidification where
+  /-- the inclusion `D ↪ M₂(𝔸ᶠ)` of a rigidification.
+  This becomes an iso after lifting to `D ⊗ 𝔸ᶠ`. -/
+  incl : D →ₐ[F] M₂(𝔸 F)
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]: (this confused me becasue I didn't realise A was finite adeles)

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 11]
```diff
@@ -44,55 +60,162 @@ for all finite places `v` together with a guarantee that the isomorphism works
...
+    (M2.localFullLevel v).units = GL2.localFullLevel v := by
+  simp only [M2.localFullLevel, ← Units.range_map_subtype, GL2.localFullLevel]
+  rw [← MonoidHom.range_comp_mulEquiv
+    (Units.mapEquiv (Subring.matrixEquiv
+      (v.adicCompletionIntegers F).toSubring (n := Fin 2)).toMulEquiv)]
+  rfl
+
+lemma isOpen_submonoidUnits {M : Type*} [Monoid M] [TopologicalSpace M] [ContinuousMul M]
+    (N : Submonoid M) (hN : IsOpen (X := M) N) : IsOpen (X := Mˣ) N.units :=
+  ⟨_, hN.prod (hN.preimage MulOpposite.continuous_unop), rfl⟩
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]: (probably shoudn't be here)

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 12]
```diff
@@ -146,75 +269,266 @@ lemma GL2.mem_localFullLevel_iff_v_le_one_and_v_det_eq_one {v : HeightOneSpectru
...
 
-open Valued
+open Valued FLT
 
-/-- local U_1(v), defined as a subgroup of GL₂(Fᵥ) given by
-matrices in GL₂(𝒪ᵥ) congruent to (a *;0 a) mod v. -/
-noncomputable def GL2.localTameLevel (v : HeightOneSpectrum (𝓞 F)) :
+/-- local `U₀(v)`, defined as a subgroup of `GL₂(Fᵥ)` given by
+matrices in `GL₂(𝒪ᵥ)` congruent to `(* *;0 *) mod v`. -/
+noncomputable def GL2.localBorelLevel (v : HeightOneSpectrum (𝓞 F)) :
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]: could call it Iwahori (which is stuff which reduce mod max ideal to a Borel)

File: FLT/QuaternionAlgebra/NumberField.lean [hunk 13]
```diff
@@ -146,75 +269,266 @@ lemma GL2.mem_localFullLevel_iff_v_le_one_and_v_det_eq_one {v : HeightOneSpectru
...
+  Subgroup.isOpen_mono (GL2.localTameLevel_le_localPTameLevel ..)
+    (GL2.localTameLevel.isOpen v)
+
+theorem GL2.localPTameLevel.isCompact (v : HeightOneSpectrum (𝓞 F)) (p : ℕ) :
+    IsCompact (X := GL₂(v.adicCompletion F)) (GL2.localPTameLevel v p) :=
+  (GL2.localBorelLevel.isCompact v).of_isClosed_subset
+    (Subgroup.isClosed_of_isOpen _ (GL2.localPTameLevel.isOpen v p))
+      (localPTameLevel_le_localBorelLevel _ _)
+
+/-- The subgroup of `Fᵥˣ` consisting of elements in `𝒪ᵥˣ` whose order mod `v` is prime to `p`. -/
```
Comment (kbuzzard) [inline FLT/QuaternionAlgebra/NumberField.lean]:
```suggestion
/-- The subgroup of `Fᵥˣ` consisting of elements in `𝒪ᵥˣ` whose order mod `v` is prime to `p`. In particular it contains `1+v𝒪ᵥ`. -/
```

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 14]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+instance {F : Type*} [Field F] (n : ℕ) :
+    IsSplittingField F (CyclotomicField n F) (cyclotomic n F) := by
+  delta CyclotomicField; infer_instance
+
+open Polynomial in
+set_option backward.isDefEq.respectTransparency false in
+lemma U₁Data.five_le
+    (𝒮 : U₁Data F R p) : 5 ≤ p := by
+  by_contra! H
+  obtain rfl | rfl | rfl | rfl | rfl : (p = 0 ∨ p = 1 ∨ p = 2 ∨ p = 3 ∨ p = 4) := by lia
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean]: I think there's some interval_cases trick youcan do here

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 15]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+  · simp only [U₁, MulEquiv.toMonoidHom_eq_coe, H, not_false_eq_true, and_self, ↓reduceDIte]
+    exact congr($(𝒮.χS_pow_eq_one v H.1) _)
+  · simpa [U₁, H, -one_pow] using! one_pow p
+
+@[simp] lemma U₁Data.χ_pow (𝒮 : U₁Data F R p) (v) : (U₁ 𝒮).χ v ^ p = 1 := by ext; simp
+
+@[simp] lemma U₁Data.toStruct_χ_apply_pow (𝒮 : U₁Data F R p) (x) :
+    (U₁ 𝒮).toStruct.χ x ^ p = 1 := by
+  simp only [WeightTwoAutomorphicForm.LocalLevelStruct.toStruct]
+  erw [MonoidHom.finsetProd_apply]
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean:575]: I wonder why erw was needed?

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean [hunk 16]
```diff
@@ -88,267 +94,1009 @@ end finiteness
...
+  change (U₁ 𝒮).toStruct.formTensorScalar D M R _ = _
+  dsimp
+  simp only [LinearEquiv.symm_apply_apply, TensorProduct.comm_tmul]
+  rfl
+
+/-- Note: This breaks the abstraction boundary that `HeckeAlgebra` is defined as a
+subtype under the hood. This should only be used in the backward direction to remove the abuse. -/
+lemma smul_eq_apply (𝒮 : U₁Data F R p)
+    (T : HeckeAlgebra D 𝒮) (f : (U₁ 𝒮).toStruct.form D R) :
+    T • f = T.1 f := by
```
Comment (kbuzzard) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators/Concrete.lean]: Other way around then?

File: FLT/Mathlib/NumberTheory/NumberField/FiniteAdeleRing.lean [hunk 17]
```diff
@@ -31,29 +31,54 @@ open scoped TensorProduct
...
+  exact ⟨⟨I, inferInstance, by rintro rfl; exact hR (Ring.isField_iff_maximal_bot.mpr hI)⟩⟩
+
+instance {R : Type*} [CommRing R] [Algebra.IsIntegral ℤ R] [FaithfulSMul ℤ R] :
+    Nonempty (HeightOneSpectrum R) :=
+  have := (FaithfulSMul.algebraMap_injective ℤ R).nontrivial
+  HeightOneSpectrum.nonempty fun h ↦
+    Int.not_isField
+      (isField_of_isIntegral_of_isField (FaithfulSMul.algebraMap_injective ℤ R) h)
+
+instance : Nontrivial (FiniteAdeleRing (𝓞 K) K) :=
```
Comment (kbuzzard) [inline FLT/Mathlib/NumberTheory/NumberField/FiniteAdeleRing.lean:78]: I think you have this twice and I have it once already.
